US06987114B1
1-(3,5-Difluorobenzyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 3,5-difluorobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (220 mg, yield: 53.3%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 3,5-difluorobenzyl bromide | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
product | 1-(3,5-Difluorobenzyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 220 mg, yield: 53.3% | FC=1C=C(CN2C(NC(C(=C2C(C2=CC(=CC(=C2)C)C)=O)C(C)C)=O)=O)C=C(C1)F | C23H22F2N2O3
